US09162979B2
2-(Methylsulphonyloxy)ethyl-2-[1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl)acetate
DMAP (0.03 mmol) and diisopropylethylamine (DPEA) (0.5 mmol) are added to a solution of 2-hydroxyethyl-2-[1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl)acetate in DCM (10 ml), at 0° C., MsCl (0.6 mmol) is added and it is stirred for 3 h, at RT. Then H2O is added (5 ml) and it is stirred for 1 h, the phases are separated and the organic phase is washed with NaHCO3 and then with H2O. It is dried and concentrated. The raw product is purified by chromatography (silica; hexane/EtOAc). Oil, yield 76%. 1H NMR 200 MHz (CDCl3) δ (ppm): 2.05 (s, 3H), 2.96 (s, 6H), 3.50 (s, 2H), 4.13-4.33 (m, 4H), 6.51 (s, 1H), 7.08-7.14 (m, 4H), 7.37-7.41 (m, 3H), 7.62 (d, 2H, J=8.6). MS-ESI: m/z 515 (M+Na+).

reactant | diisopropylethylamine | 0.5 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-hydroxyethyl-2-[1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl)acetate | OCCOC(CC1=C(N(C(=C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=CC=C1)C)=O | C22H23NO5S
reactant | MsCl | 0.6 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | H2O | O | H2O
catalyst | DMAP | 0.03 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(Methylsulphonyloxy)ethyl-2-[1-phenyl-2-methyl-5-(4-methylsulphonylphenyl)-1H-pyrrol-3-yl)acetate | yield 76% | CS(=O)(=O)OCCOC(CC1=C(N(C(=C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=CC=C1)C)=O | C23H25NO7S2
